US05476860
(a) Benzyl 2-hydroxy-4-[2-acetoxy-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethoxy]benzoate
2.2 g (4.6 mmol) of benzyl 2-hydroxy-4-[2-hydroxy-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethoxy]benzoate, 50 ml of THF and 380 μl (4.6 mmol) of pyridine are introduced into a flask. 330 μl (4.6 mmol) of acetyl chloride are added dropwise and the reaction mixture is stirred at room temperature for 8 hours. It is poured into water and extracted with ethyl ether, and the organic phase is separated, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a silica column, eluted with a mixture of hexane and dichloromethane (90:10). After evaporation of the solvents, 1.8 g (77%) of the expected product are collected in the form of a yellow oil.

reactant | benzyl 2-hydroxy-4-[2-hydroxy-2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethoxy]benzoate | 4.6 mmol, 2.2 g | OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)OCC(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)O | C30H34O5
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | pyridine | 4.6 mmol, 380 μl | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 4.6 mmol, 330 μl | C(C)(=O)Cl | C2H3ClO
solvent | water | O | H2O
product | Benzyl 2-hydroxy-4-[2-acetoxy-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)ethoxy]benzoate | OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)OCC(OC(C)=O)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C32H36O6
